* c:\fossee\esim\library\subcircuitlibrary\nand\nand.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m3 net-_m2-pad3_ net-_m3-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m2 net-_m1-pad3_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSN W=100u L=100u M=1
v1 net-_m1-pad1_ gnd  dc 1.8
* u1  net-_m1-pad2_ net-_m3-pad2_ net-_m1-pad3_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
